Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Streptomycin / Haldol
 
Attending: ___
 
Chief Complaint:
acute on chronic renal failure
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ metastatic prostate cancer,hormone refractory presenting 
with acute on chronic kidney failure. Patient was seen by his 
PCP with labs demonstrating a Cr of 3.1 (baseline 1.6-2.0) and 
imaging c/w bilateral hydrouretronephrosis R>L and a distended 
bladder. Patient describes minimal suprapubic tenderness but 
endorses urinating small volumes many times.  He denies fever, 
chills or hematuria. The patient has been in hospice and has 
previously determined with his wife and daughters that he is a 
DNR/ DNI and does not want intervention or hospitalization, 
however, he is now endorsing full code and so is his wife. His 
daughter reports that this has been the family and the patient's 
wish in the past and she strongly believes that the patient will 
become agitated and delirious tonight. She would like him to be 
discharged in the am so that he can return to his hospice care 
and avoid hospitalization. 
.
In the ED, initial vitals 96.9 64 137/62 18 100% RA. Labs 
notable for creatinine 2.8, UA grossly positive. Patient 
received ciprofloxacin 500mg. Renal US obtained which 
demonstrated moderate bilateral hydronephrosis and hydroureter 
to the level of thebladder.
Urology was consulted. They hypothesized renal dysfunction was 
secondary to outflow obstruction due to enlarging prostate or 
possible bladder trigone invasion from prostate Ca resulting in 
bilateral ureteral obstruction. ___ foley was placed at the 
bedside with great difficulty draining about 700cc cloudy, 
yellow urine. They recommended admission to medicine for 
electrolyte monitoring in the setting of possible 
post-obstructive diuresis, empiric antibiotic with plan to 
consider bilateral ureteral orifice obstruction from trigone 
invasion if creatinine doesnt improve. 
. 
Labs notable for BMP: 140/4.1/102/26/45/2.8/104 CBC:8.6/27.5/319
UA lg ___, tr bld, 8 RBC, >182 WBC, few bacteria
.
Vitals prior to transfer: 96.9 64 137/62 18 100 RA
.
Currently, the patient is confused but he is not endorsing pain 
except for a mild sting in his penis. The confusion is his 
baseline, per his wife of ___ years and his daughter, ___, to 
whom we spoke on the phone.
.  
ROS: per HPI, denies fever, chills, night sweats, headache, 
vision changes, rhinorrhea, congestion, sore throat, cough, 
shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria.
 
Past Medical History:
SYNCOPE AND COLLAPSE                                      
CAD (CORONARY ARTERY DISEASE)                             
HEARING LOSS                                              
Dementia
HLD
Prostate Ca
CHOLECYSTECTOMY                                           
CABG, VEIN, THREE 1980s    
.  

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
ADMISSION EXAM
VS - Temp 97.2F, BP 200/90, HR 63, R 20, O2-sat 98% RA  
GENERAL - well-appearing, thin man in NAD, comfortable, 
appropriate but very forgetful. Easily redirectable. Asks, "Why 
is there a tube in my penis?" every few minutes.  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - PMI non-displaced, RRR, IV/VI systolic 
crescendo/decrescendo murmer heard throughout the precordium, nl 
S1-S2  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  no suprapubic tenderness, thin abdomen
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - multiple nevi
NEURO - awake, Alert but not oriented except to self, CNs II-XII 
grossly intact,
GU - foley in place with no blood at meatus, no erythema 
appreciated. Dime-shaped spot of blood on gown. 

DISCHARGE EXAM
BP 96/50 HR 65 
unchanged; still forgetful
mild erythema at meatus of penis, no bleeding
 
Pertinent Results:
ADMISSION LABS

___ 11:30AM BLOOD WBC-8.6 RBC-3.16* Hgb-9.3* Hct-27.5* 
MCV-87 MCH-29.3 MCHC-33.7 RDW-14.7 Plt ___
___ 11:30AM BLOOD Neuts-82.4* Lymphs-12.6* Monos-3.2 
Eos-1.4 Baso-0.5
___ 11:30AM BLOOD ___ PTT-31.3 ___
___ 11:30AM BLOOD Glucose-104* UreaN-45* Creat-2.8* Na-140 
K-4.1 Cl-102 HCO3-26 AnGap-16
___ 09:10PM BLOOD Calcium-9.5 Phos-3.6 Mg-1.8

MICROBIOLOGY
___ URINE CULTURE PENDING
___ 12:15PM URINE Blood-TR Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-LG
___ 12:15PM URINE RBC-8* WBC->182* Bacteri-FEW Yeast-NONE 
Epi-0

___ Renal US:
1. Bilateral hydronephrosis and hydroureter to the level of the 
bladder. 
2. Distended bladder with wall thickening and trabeculations, 
some of which demonstrate vascularity. This may represent 
trabeculated appearance secondary to chronic outflow obstruction 
in the setting of an enlarged prostate. However, malignancy is 
not excluded; bladder or from prostate cancer, in this patient 
with history of prostate cancer. Urology consultation/evaluation 
with possible cystoscopy is advised.
. 
DISCHARGE LABS

___ 11:00AM BLOOD WBC-12.6* RBC-3.29* Hgb-9.7* Hct-28.9* 
MCV-88 MCH-29.6 MCHC-33.7 RDW-14.7 Plt ___
___ 11:00AM BLOOD Glucose-107* UreaN-43* Creat-2.7* Na-141 
K-4.2 Cl-104 HCO3-26 AnGap-15
___ 11:00AM BLOOD ___ PTT-29.3 ___
___ 11:00AM BLOOD Calcium-9.6 Phos-3.9 Mg-1.___ male with hx of metastatic prostate cancer, here for 
obstructive renal failure. 
.  
# Obstructive Renal Failure: the patient has had an acute 
increase in his creatinine from baseline ___ to 3.1, improved 
to 2.6 with placement of Foley but increased again to 2.7 prior 
to discharge. Renal ultrasound revealed hydronephrosis and 
hydroureter. Urology placed foley catheter with difficulty.  The 
patient did not have electrolyte complications from 
post-obstructive diuresis. His creatinine improved and, in 
discussion with his family and his oncologist, the patient's 
goals of care did not align with hospitalization in order to 
undergo procedure such as ureter stent or nephrostomy tube 
placement. The foley was left in place at time of discharge and 
he will follow with urology next week, at which time the foley 
can be discontinued. There is a possibility that he may undergo 
stenting in the outpatient setting, and urology may consider 
repeat renal ultrasound next week.
.
# UTI :the patient's UA in the ED was positive and he was 
started empirically on ciprofloxacin, he will complete a 10 day 
course (he received 2 doses in the hospital). He will follow up 
with urology next week and they will likely remove his Foley 
catheter. The family and the patient understand that they should 
call hospice physicians if he has fevers, chills or worsening 
pain, or if he self-discontinues his foley catheter. His cipro 
may need to be re-dosed if creatinine improves from 2.6-2.8, 
which it was at time of d/c.
.
# Dementia: baseline, chronic. Not on medications.
.
# Hypertension: BP 200/80 at presentation, improved with 
hydralazine 10mg PO x2 to 150/80. The patient's blood pressure 
has been elevated to the 160/80 range in clinic. He does not 
take blood pressure medications at home. At time of d/c, his BP 
was 95/60, so he was not sent home with medications. Could be a 
side effect of zytiga. In setting of renal failure, should avoid 
nephrotoxins such as ___. 
.
# Metastatic Prostate Ca: patient is on prednisone to treat side 
effect of zytiga (htn, hyperkalemia, edema). Per discussion with 
daughter, ___, and the patient's oncologist, the patient's 
goals of care are hospice/do not hospitalize. He will continue 
to follow with his outpatient heme onc to address his cancer and 
how it affects his goals of care. At this time, hospitalization 
does not align with his goals of care but intervention such as 
stenting may.
.
TRANSITION OF CARE:
CODE STATUS: DNR/DNI, CONFIRMED WITH WIFE, HEALTH CARE PROXY
CONTACT: ___, wife ___. ___, daughter in ___ ___
PENDING STUDIES AT TIME OF DISCHARGE: 
urine culture
ISSUES TO ADDRESS AT FOLLOW UP:
Goals of care
Foley care/ removal
trend creatinine
possible repeat renal ultrasound, per urologist appt next week
complete 10 day course of ciprofloxacin for UTI
hypertension?
may need re-dose of ciproflaxicin if renal function has improved 
on labs done on ___ and sent to Drs ___
 
___ on Admission:
Prednisone 5 mg Oral Tablet TAKE 1 TABLET TWICE DAILY 
Rosuvastatin (CRESTOR) 10 mg Oral Tablet take one pill orally 
daily 
Aspirin 81 mg Oral Tablet 1 tablet daily. 
Goserelin (ZOLADEX) 10.8 mg Subcutaneous Implant 10.8MG SC q3mo  

Fish Oil PO 1 capsule per day 
Calcium/Vitamin D tablet 500MG-200 PO 
Zytiga 1000mg qday 1 hour before or 2 hours after eating
Centrum Silver daily

 
Discharge Medications:
1. prednisone 5 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
2. rosuvastatin 5 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
3. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
4. omega-3 fatty acids     Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
5. Calcium 500 + D 500 mg(1,250mg) -200 unit Tablet Sig: One (1) 
Tablet PO once a day.  
6. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Zytiga 250 mg Tablet Sig: Four (4) Tablet PO qday (): take on 
empty stomach; 1hr before eating or 2hr after eating.  
8. Zoladex ___ mg Implant Sig: One (1)  Subcutaneous as 
directed.  
9. ciprofloxacin 250 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours) for 8 days.
Disp:*8 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
primary diagnosis: obstructive acute on chronic renal failure
metastatic prostate cancer
secondary diagnosis: dementia

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Mental Status: Confused - always.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted for worsening renal function. The cause of 
your worsening kidney function was obstruction, which was 
blocking the urine from draining and this was leading to damage 
to your kidneys. The obstruction is from your prostate cancer, 
and is likely that your prostate is enlarged. There may also be 
a component of blockage in the ureters, but this is unclear and 
you, with your family, opted to avoid intervention at this time 
but it will be of the utmost importance to see your oncologist, 
PCP and urology for close follow-up.  If you have chills or 
worsening pain in your back or above the pubic bone, please call 
Dr. ___ your PCP. If you pull your foley catheter out, 
please call your hospice dpctors. 
.
Please note the following changes to your medications:
- START Ciprofloxacin daily for 10 days (received 2 doses in the 
hospital)
.
Please continue to take the remainder of your medications as 
directed. Please be sure to follow up with your physicians. You 
will need to get your blood tested on ___ and have the results 
sent to Dr. ___ Dr. ___ may have to adjust your 
ciprofloxacin dose based on your kidney function. It was a 
pleasure taking part in your care at ___. 
 
Followup Instructions:
___